US04455422
4.0 Grams of 6-(4-chloro-1-oxobutyl)-3,4-dihydrocarbostyril was disposed in 200 ml of methanol, and the suspension was stirred at a room temperature. Then 2.0 g of sodium borohydride was added to the suspension gradually and the reaction was continued for 1 hour. Next, 3 ml of concentrated hydrochloric acid was added to the reaction mixture and the mixture was concentrated under a reduce pressure with heat-refluxing condition to obtain a residue. The residue was extracted with chloroform and the chloroform layer was washed with water and dried. Then chloroform was removed by distillation under a reduced pressure to obtain a residue, and the residue was recrystallized from ethanol to obtain 2.4 g of 6-(4-chloro-1-butenyl)-3,4-dihydrocarbostyril in yellow needle-like crystals. Melting point: 153°-155° C.

reactant | 6-(4-chloro-1-oxobutyl)-3,4-dihydrocarbostyril | ClCCCC(=O)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 6-(4-chloro-1-butenyl)-3,4-dihydrocarbostyril | 2.4 g | ClCCC=CC=1C=C2CCC(NC2=CC1)=O | C13H14ClNO
